US08471005B2
7-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-phenyl]-2-methanesulfonyl-pyrrolo[2,1-f][1,2,4]triazine (800 mg, 1.92 mmol) was dissolved in 1,4-dioxane (5.00 mL) and 5.00 M sodium hydroxide in water (5.00 mL, 25.0 mmol) was added. The reaction was heated at 80° C. for 2 hours and then acidified to pH 6 with conc. HCl. The product was then extracted with DCM (100 mL) and the organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. Purification by silica gel chromatography using a gradient of 0-100% EtOAc/hex as the eluting solvent to obtain 7-[3-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol as a yellow solid (252 mg, 37%). m.p.=194-195° C.; LCMS (m/e) 356 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.48 (s, 1H), 8.27 (d, 1H, J=7.7 Hz), 8.07 (s, 1H), 7.52-7.44 (m, 1H), 7.40 (d, 1H, J=7.6 Hz), 7.17 (d, 1H, J=5.1 Hz), 7.05 (d, 1H, J=5.1 Hz), 4.84 (s, 2H), 0.97 (s, 9H), 0.13 (s, 6H).

reactant | 7-[3-(tert-Butyl-dimethyl-silanyloxymethyl)-phenyl]-2-methanesulfonyl-pyrrolo[2,1-f][1,2,4]triazine | 1.92 mmol, 800 mg | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)S(=O)(=O)C)(C)C | C20H27N3O3SSi
reactant | sodium hydroxide | 5.00 M | [OH-].[Na+]
reactant | water | 25.0 mmol, 5.00 mL | O | H2O
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 5.00 mL | O1CCOCC1 | C4H8O2
product | 7-[3-(tert-butyl-dimethyl-silanyloxymethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 252 mg, 37% | C(C)(C)(C)[SiH2]OC(C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O)(C)C | C19H25N3O2Si
